US06077812
Step F 3-(4-chloro-6-fluoro-3-iodo-2-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione
A solution of 4.0 grams (0.011 mole) of 3-(3-amino-4-chloro-6-fluoro-2-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione in 25 mL (0.300 mole) of concentrated hydrochloric acid was stirred and cooled in an ice bath. During a 15 minute period, 1.9 grams (0.013 mole) of sodium nitrite was added dropwise at a rate to maintain the reaction temperature at 15° C. Upon completion of addition, the mixture was stirred for 20 minutes and then poured into 15.0 grams (0.090 mole) of potassium iodide. The reaction mixture was stirred for 30 minutes and then filtered. The filter cake was thoroughly washed with distilled water and then taken up in 150 mL of ethyl acetate. The resulting solution was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield a brown solid. The solid was subjected to column chromatography on silica gel. Elution was accomplished using 5:1 heptane and ethyl acetate. The product-containing fractions were combined and concentrated under reduced pressure, yielding 3.0 grams of title compound. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(3-amino-4-chloro-6-fluoro-2-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | 0.011 mole, 4.0 grams | NC=1C(=C(C(=CC1Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)OC | C13H10ClF4N3O3
reactant | hydrochloric acid | 0.300 mole, 25 mL | Cl | ClH
reactant | sodium nitrite | 0.013 mole, 1.9 grams | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.090 mole, 15.0 grams | [I-].[K+]
product | 3-(4-chloro-6-fluoro-3-iodo-2-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 3.0 grams | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)OC)I | C13H8ClF4IN2O3
